US07851493B2
To a solution of 150 mg of N-hydroxy-2-methoxy-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-benzamidine in 5 mL of anhydrous dichloromethane at 0° C. were dropwise added 50 μL of pyridine followed by 40 μL of phenylchloroformate. The resulting mixture was stirred at room temperature for 1 h then water and dichloromethane were added. The aqueous layer was separated and extracted with dichloromethane. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. To a solution of the resulting residue in 2.7 mL of acetonitrile was added 60 μL of 1,8-diazabicyclo[5.4.0]undec-7-ene. The mixture was stirred at room temperature overnight. The solvent was removed under vacuo. The resulting residue was taken into tetrahydrofuran/ethyl acetate 50/50, washed with water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient from dichloromethane 100 to dichloromethane 90/methanol 10) to give 105 mg of 3-{2-methoxy-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one.

reactant | N-hydroxy-2-methoxy-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-benzamidine | 150 mg | ONC(C1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCC(CC1)C(F)(F)F)OC)=N | C26H26F6N4O3S
reactant | pyridine | 50 μL | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 40 μL | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | water | O | H2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-{2-methoxy-4-[2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 105 mg | COC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCC(CC1)C(F)(F)F)C1=NOC(N1)=O | C27H24F6N4O4S
